US04914003
78.3 g (0.5 mol) of phenyl chloroformate was dissolved in 250 ml of acetonitrile. A mixed solution of 137 g (0.45 mol) of 3-(2,4-diamylphenoxy)propylamine, 69.5 ml of triethylamine and 250 ml of acetonitrile was added dropwise to the solution thus formed in about 3 hours with stirring while the latter was cooled with ice at a temperature of 0° C. After the dropwise addition was finished, the reaction temperature was raised to 25° C. 2 l of ice water was added to the admixture. The admixture was then extracted with chloroform. The chloroform was removed under reduced pressure. Methanol was added to the residual oily matter to obtain 150 g of 3-(2,4-diamylphenoxy)-1-phenoxycarbonylaminopropane.

reactant | phenyl chloroformate | 0.5 mol, 78.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-(2,4-diamylphenoxy)propylamine | 0.45 mol, 137 g | C(CCCC)C1=C(OCCCN)C=CC(=C1)CCCCC | C19H33NO
reactant | triethylamine | 69.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 3-(2,4-diamylphenoxy)-1-phenoxycarbonylaminopropane | 150 g | C(CCCC)C1=C(OCCCNC(=O)OC2=CC=CC=C2)C=CC(=C1)CCCCC | C26H37NO3
